US06716843B2
(S)-N-[4Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-cyclobutanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, cyclobutanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | cyclobutanesulphonyl chloride | C1(CCC1)S(=O)(=O)Cl | C4H7ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[4Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-cyclobutanesulphonamide Hydrochloride | Cl.N[C@@H](CCCNS(=O)(=O)C1CCC1)C(N1CCCC1)=O | InChI=1S/C13H25N3O3S.ClH/c14-12(13(17)16-9-1-2-10-16)7-4-8-15-20(18,19)11-5-3-6-11;/h11-12,15H,1-10,14H2;1H/t12-;/m0./s1
